US07763750B2
Production of N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide
A mixture of 2-methyl-1-methylthio-2-propanamine (11.61 g) and triethylamine (1.97 g) was added dropwise to a mixture of phthalic anhydride (14.42 g) and 1,2-dichloroethane (58 mL) at 50° C. The resulting mixture was stirred at the same temperature for 30 minutes to prepare N-[1,1-dimethyl-2-(methylthio)ethyl]phthalamic acid. Aqueous sodium hydrogencarbonate solution (9.81 g/101 mL) was added dropwise to this mixture at 40° C. and then methyl chloroformate (11.04 g) was added dropwise thereto at the same temperature. After completion of the dropwise addition, the reaction mixture was stirred at 50° C. for 1 hour and the organic layer was separated to prepare a solution of N-[1,1-dimethyl-2-(methylthio)ethyl]isophthalimide in 1,2-dichloroethane. This solution was added dropwise to a mixture of 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoro-methyl)ethyl]aniline (25.45 g), concentrated hydrochloric acid (0.49 g) and 1,2-dichloroethane (14.4 mL) at 60° C., and then stirred at 65° C. for 30 minutes to prepare a solution of N2-[1,1-dimethyl-2-(methylthio)ethyl]-N1-{2-methyl-4-{1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl}phenyl}-1,2-benzenedicarboxamide in 1,2-dichloroethane. Formic acid (0.94 g) was added to this solution, followed by adding dropwise thereto 35% hydrogen peroxide (10.41 g) at 60° C. After completion of the dropwise addition, the resulting mixture was stirred at 60° C. for 1 hour and an aqueous sodium sulfite solution was added dropwise to the thus obtained reaction mixture at the same temperature to decompose the excess oxidizing agent. Then, the resulting mixture was neutralized with an aqueous sodium hydrogencarbonate solution, after which the organic layer was separated. The organic layer obtained was slowly cooled to 20° C. The crystals precipitated were filtered, washed with water and then dried to obtain 43.89 g (yield 83%) of the title compound.

reactant | 2-methyl-1-methylthio-2-propanamine | 11.61 g | CC(CSC)(C)N | C5H13NS
reactant | phthalic anhydride | 14.42 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | N-[1,1-dimethyl-2-(methylthio)ethyl]phthalamic acid | CC(CSC)(C)NC(C=1C(C(=O)O)=CC=CC1)=O | C13H17NO3S
reactant | sodium hydrogencarbonate | 101 mL, 9.81 g | C(O)([O-])=O.[Na+]
reactant | methyl chloroformate | 11.04 g | ClC(=O)OC | C2H3ClO2
reactant | 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoro-methyl)ethyl]aniline | 25.45 g | CC1=C(N)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F | C10H8F7N
reactant | hydrochloric acid | 0.49 g | Cl | ClH
reactant | N2-[1,1-dimethyl-2-(methylthio)ethyl]-N1-{2-methyl-4-{1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl}phenyl}-1,2-benzenedicarboxamide | CC(CSC)(C)NC(=O)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C23H23F7N2O2S
reactant | hydrogen peroxide | 10.41 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 14.4 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 58 mL | ClCCCl | C2H4Cl2
solvent | Formic acid | 0.94 g | C(=O)O | CH2O2
solvent | triethylamine | 1.97 g | C(C)N(CC)CC | C6H15N
product | N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide | 43.89 g, yield 83% | CC(CS(=O)C)(C)NC(=O)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C23H23F7N2O3S
